US06258905B1
benzoyl peroxide;
succinic acid peroxide, dicumyl peroxide; di-tert-butyl peroxide;

reactant | succinic acid peroxide | C(CC(=O)OOC(=O)CCC(=O)O)C(=O)O | C8H10O8
reactant | dicumyl peroxide | C(C)(C)(C1=CC=CC=C1)OOC(C)(C)C1=CC=CC=C1 | C18H22O2
reactant | di-tert-butyl peroxide | C(C)(C)(C)OOC(C)(C)C | C8H18O2
product | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
